US05821375
40.6 g of sclareol (0.132 mol) in 300 ml methanol was ozonolysed at 20°-25° C. using a Gebr. Herrmann LAB-50-1 lab ozoniser operating at 130V, with flow rate at 61/hr, under which conditions 0.05 mol/hr of ozone was generated. The reaction was complete in 3 hrs whereafter the reaction mixture was poured into a mixture of 19 g KOH and 38 ml H2O2 in 500 ml of water and stirred for 30 min. The suspension was extracted three times with 100 ml toluene. the organic layer was washed with 100 ml 0.1 mol sodium thiosulphate solution and dried over Mg sulphate. Thereafter toluene was removed at 55° C. under reduced pressure. 33.6 g (97.4% yield) of pure sclareol oxide was obtained.

reactant | sclareol | 0.132 mol, 40.6 g | C[C@]12CCCC([C@@H]1CC[C@@]([C@@H]2CC[C@](C)(C=C)O)(C)O)(C)C | C20H36O2
reactant | ozone | O=[O+][O-] | O3
reactant | KOH | 19 g | [OH-].[K+]
reactant | H2O2 | 38 ml | OO | H2O2
reactant | sodium thiosulphate | 0.1 mol, 100 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 300 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | sclareol oxide | 33.6 g, 97.4% yield | CC1=CC[C@@H]2[C@]3(CCCC([C@@H]3CC[C@]2(O1)C)(C)C)C | C18H30O
